US08895544B2
6-[5-Fluoro-4-methoxy-2-(2,2,2-trifluoro-ethyl)-phenyl]-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carbonitrile
To a solution of 6-bromo-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carbonitrile (Preparation 2, 3.99 g, 13.03 mmol) and 2-[5-fluoro-4-methoxy-2-(2,2,2-trifluoro-ethyl)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (Preparation 36, 7.46 g, 15.63 mmol) in dioxane (60 mL) was added a solution of potassium phosphate (18.8 g, 39.09 mmol) in water (12 mL). The mixture was degassed with nitrogen, treated with tetrakis (triphenylphosphine) palladium(0) (3.01 g, 2.6 mmol) and heated at 110° C. for 18 hours. The reaction mixture was concentrated in vacuo and the residue was redissolved in EtOAc (500 mL) and filtered through Arbocel®, washing with EtOAc (2×500 mL). The combined organic phases were washed with water (300 mL), dried over MgSO4 and concentrated in vacuo to give a brown oil. The residue was purified by column chromatography on silica gel, eluting with 25% EtOAc in heptanes, to give the title compound (1.737 g) in a 31% yield.

reactant | 6-bromo-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carbonitrile | 13.03 mmol, 3.99 g | BrC1=CC=C2C(=NN(C2=C1)C1OCCCC1)C#N | C13H12BrN3O
reactant | 2-[5-fluoro-4-methoxy-2-(2,2,2-trifluoro-ethyl)-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 15.63 mmol, 7.46 g | FC=1C(=CC(=C(C1)B1OC(C(O1)(C)C)(C)C)CC(F)(F)F)OC | C15H19BF4O3
reactant | potassium phosphate | 39.09 mmol, 18.8 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | water | 12 mL | O | H2O
catalyst | tetrakis (triphenylphosphine) palladium(0) | 2.6 mmol, 3.01 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-[5-Fluoro-4-methoxy-2-(2,2,2-trifluoro-ethyl)-phenyl]-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carbonitrile | 1.737 g, 31% yield | FC=1C(=CC(=C(C1)C1=CC=C2C(=NN(C2=C1)C1OCCCC1)C#N)CC(F)(F)F)OC | C22H19F4N3O2
